US04379785
N-(4-[2-(4-methyl-2-oxo-piperidine-1-carboxamido)-ethyl]-benzenesulfonyl)-N'-cyclohexyl urea
1.2 g N-(4-[2-(4-methyl-2-oxo-piperidine-1-carboxamido)-ethyl]-benzenesulfonyl)-N'-cyclohexyl-thio-urea (m.p. 179°-181° C., prepared from 4-[2-(4-methyl-2-oxo-piperidine-1-carboxamido)-ethyl]-benzenesulfonamide and cyclohexyl-isocyanate in acetone in the presence of potassium carbonate) are dissolved in 75 ml of acetone and 10 ml of water. At 0° C., a solution of 0.1 g of sodium nitrite in 5 ml of water is added to this solution, subsequently 0.8 ml of 5 N acetic acid is added dropwise, and agitation is continued for 2 hours at 0° C. Subsequently, the acetone is evaporated under reduced pressure, the product is suction-filtered and reprecipitated from dilute ammonia. After recrystallization from dilute acetone, N-(4-[2-(4-methyl-2-oxo-piperidine-1-carboxamido)-ethyl]-benzenesulfonyl)-N'-cyclohexyl urea has a melting point of 176°-178° C., and with the product prepared according to Example 8, shows no depression.

reactant | N-(4-[2-(4-methyl-2-oxo-piperidine-1-carboxamido)-ethyl]-benzenesulfonyl)-N'-cyclohexyl-thio-urea | 1.2 g | CC1CC(N(CC1)C(=O)NCCC1=CC=C(C=C1)S(=O)(=O)NC(=S)NC1CCCCC1)=O | C22H32N4O4S2
reactant | 4-[2-(4-methyl-2-oxo-piperidine-1-carboxamido)-ethyl]-benzenesulfonamide | CC1CC(N(CC1)C(=O)NCCC1=CC=C(C=C1)S(=O)(=O)N)=O | C15H21N3O4S
reactant | cyclohexyl-isocyanate | C1(CCCCC1)N=C=O | C7H11NO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | sodium nitrite | 0.1 g | N(=O)[O-].[Na+]
solvent | acetone | CC(=O)C | C3H6O
solvent | acetone | 75 ml | CC(=O)C | C3H6O
solvent | water | 10 ml | O | H2O
solvent | water | 5 ml | O | H2O
solvent | acetic acid | 5 N, 0.8 ml | C(C)(=O)O | C2H4O2
product | N-(4-[2-(4-methyl-2-oxo-piperidine-1-carboxamido)-ethyl]-benzenesulfonyl)-N'-cyclohexyl urea | CC1CC(N(CC1)C(=O)NCCC1=CC=C(C=C1)S(=O)(=O)NC(=O)NC1CCCCC1)=O | C22H32N4O5S
